US09232799B2
To 400 ml of a 1N sodium hydroxyde aqueous solution, is added dropwise 67.5 g of a solution (10% molar) of 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl fluoride in tetra-hydrothiophene-1,1-dioxide. The temperature is kept below 20° C. during the addition. After 2 hours of stirring at room temperature, the reaction mixture is carefully acidified to pH 2 with concentrated aqueous hydrochloric acid. The resulting white precipitate is filtered, washed with water, and dried to yield 6 g of 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxylic acid as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm: 3.90 (s, 3H); 7.22 (t, 1H, JHF=53.55 Hz); 13.33 (s, 1H).

reactant | sodium | 1N | [Na] | Na
reactant | 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl fluoride | FC(C1=NN(C(=C1C(=O)F)F)C)F | C6H4F4N2O
reactant | hydrochloric acid | Cl | ClH
reactant | tetra-hydrothiophene-1,1-dioxide | S1(CCCC1)(=O)=O | C4H8O2S
product | 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxylic acid | 6 g | FC(C1=NN(C(=C1C(=O)O)F)C)F | C6H5F3N2O2
